US07576108B2
d: (E)-4-Cyclohexyl-2-(4-methanesulfonyl-phenyl)-but-2-enoic acid ethyl ester
Following the method of example 54d, using (E)-4-cyclohexyl-2-(4-methylsulfanyl-phenyl)-but-2-enoic acid ethyl ester (978 mg, 3.07 mmol) dissolved in methanol 5 h at ambient temperature after the addition of oxone® (2.45 g, 3.99 mmol) gives the title compound as an yellow oil (1.02 g). MS (m/e): 351 (M+H).

reactant | (E)-4-cyclohexyl-2-(4-methylsulfanyl-phenyl)-but-2-enoic acid ethyl ester | 3.07 mmol, 978 mg | C(C)OC(\C(=C\CC1CCCCC1)\C1=CC=C(C=C1)SC)=O | C19H26O2S
reactant | oxone | OOS(=O)[O-].[K+]
reactant | methanol | CO | CH4O
product | (E)-4-Cyclohexyl-2-(4-methanesulfonyl-phenyl)-but-2-enoic acid ethyl ester | 1.02 g | C(C)OC(\C(=C\CC1CCCCC1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C19H26O4S
